US07442698B2
A suspension of 5-methoxy-2-nitro-benzaldehyde (3.5 g, 19.3 mmol), tosylmethyl-isocyanide (4.5 g, 23.05 mmol) and potassium carbonate (6.7 g, 48.5 mmol) in methanol (40 mL) was stirred at room temperature for 4 h. The resulting red-orange suspension was concentrated and the residue diluted with ethyl acetate. The mixture was partitioned between ethyl acetate and water. The organic phase was separated and washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford a yellow oil. This oil was purified via column chromatography on silica gel (gradient elution with 0-10% methanol-methylenechloride) to afford 5-(5-methoxy-2-nitrophenyl)oxazole.

reactant | 5-methoxy-2-nitro-benzaldehyde | 19.3 mmol, 3.5 g | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
reactant | tosylmethyl-isocyanide | 23.05 mmol, 4.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 48.5 mmol, 6.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 40 mL | CO | CH4O
product | 5-(5-methoxy-2-nitrophenyl)oxazole | COC=1C=CC(=C(C1)C1=CN=CO1)[N+](=O)[O-] | C10H8N2O4
